reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][C:5]#[C:6][H:12])[H:11])[H:10])([H:7])([H:8])[H:9],94.94593167331641
[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4][H:12])[O:5][H:13])([H:6])([H:7])[H:8],71.857259934964
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:4]\[C:5]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10].[C:3]([C:6](=[O:7])[H:18])([H:12])([H:13])[H:14],97.5473865299524
[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][H:10])=[C:4]=[C:5]([H:9])[H:11])([H:6])([H:7])[H:8],69.3998897756786
[O:1]=[C:5]1[C:4]([H:8])([H:9])[O:3][C:2]([H:7])=[C:6]1[H:10]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7],138.5121029716583
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N:2][C@:3]([N:4]([H:11])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:9])([H:8])[H:10],82.8934654910331
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3]1\[O:4][C:5]1([H:11])[H:12])([H:7])([H:8])[H:9].[O:6]([H:10])[H:13],64.7864340702784
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C@:2]2([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:15])[C@@:7]1([H:17])[C@:6]2([C:5][H:14])[H:16],78.4949774745765
[O:1]([C:2]([C:3](=[O:4])[O+:6]=[C-:5][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],12.700743350686096
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C-:4]=[O+:5][C@:6]1([H:14])[C:7]2([H:13])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],60.45734612762939
[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8]>>[N:1]([C:2]#[N+:3][C:4](=[N:5][O-:6])[H:9])([H:7])[H:8],85.2309943573227
[C:1](=[C:2]1[O:3][C@@:5]([O:6][H:7])([H:11])[N:4]1[H:10])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],44.62486125065378
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]=[C:2]([C:3]([N:5]([C:4][H:8])[H:10])([H:7])[H:9])[H:6],74.67918147446049
[C:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]1=[N:5][H:6]>>[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],30.927208861983203
[C:1]([C:2]([H:10])([H:11])[H:14])([H:7])([H:8])[H:9].[C:3](=[C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:15])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],96.75636966295819
[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[O:1]([H:7])[H:10],68.187707591525
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]1([H:12])=[C:5]([H:15])[C:4]1([H:13])[H:14].[C:6]([H:8])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],57.57700950694341
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:3](=[O:4])([C:5]#[N:6])[H:11].[H:7][H:12].[N:1](=[C:2]([H:9])[H:10])[H:8],91.43745517172859
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([O+:6]=[C-:5][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],50.059814204959395
[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:7])[H:8])[H:6].[O:5]([H:9])[H:13],68.0219423212891
[C:1](=[C:2]([C+:3]=[C:4]([O-:5])[C:6]([H:10])([H:11])[H:12])[H:8])([H:7])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],25.178702051075994
[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[C:5]([O:6][H:13])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],73.7514616155851
[C-:4](=[N+:5]=[C:6]([H:13])[H:15])[H:12].[C:1]([C:2]([O:3][H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],35.8393681230372
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:3]([O:4][H:14])=[C:5]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17],75.5007853782532
